US04871852
To 20 ml of anhydrous benzene were added 3.4 g of 2,4,5-trifluorobenzoic acid and 10 ml of thionyl chloride, and the mixture was refluxed for 2 hours. After removing the solvent, excess thionyl chloride was removed three times as an azeotropic mixture with benzene to obtain 2,4,5-trifluorobenzoyl chloride.

reactant | 2,4,5-trifluorobenzoic acid | 3.4 g | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2,4,5-trifluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
